US07405326B2
Preparing 32.7 g of 2,7-dibromo-9,10-dihydrophenanthrene, 24.1 g of 2,3-dichloro-5,6-dicyanobenzoquinone (DDQ) and 500 milliliter of benzene as a mixture solution, the solution was refluxed with heating under an ambient atmosphere of argon gas for 64 hours. The reacted solution was cooled down to a room temperature, and further filtered. Concentrating the filtrate by means of an evaporator, the residue was washed with a use of methanol. After refining the filtered product by means of a short column, the refined product was re-crystallized with a use of toluene and as a result, 15.5 g of 2,7-dibromophenanthrene was obtained as colorless needle crystals.

reactant | 2,7-dibromo-9,10-dihydrophenanthrene | 32.7 g | BrC1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C14H10Br2
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 24.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 500 milliliter | C1=CC=CC=C1 | C6H6
product | 2,7-dibromophenanthrene | 15.5 g | BrC1=CC=2C=CC3=CC(=CC=C3C2C=C1)Br | C14H8Br2
